US06743939B2
a) α-(3-Chloropropyl)-2-thiophenemethanol
4-Chloro-1-(2-thienyl)-1-butanone (9.37 g, 50 mmol) was dissolved in ethanol (100 ml) and the solution cooled to 0° C. Sodium borohydride (1.88 g, 50 mmol) was added in one portion and the reaction allowed to warm to room temperature, then stirred for 18 hours. Aqueous 2M hydrochloric acid was added dropwise until the reaction ceased to effervesce. The solvent was removed in vacuo and the residue partitioned between water and ethyl acetate. The layers were separated and the aqueous portion extracted with ethyl acetate (2×100 ml). The combined organic portions were washed with water (50 ml), dried (magnesium sulphate), filtered and evaporated. The residue was passed down a flash silica chromatography column, eluting with hexane: ethyl acetate (4:1) to afford the title compound as a pale straw coloured oil (7.58 g, 79%).

reactant | 4-Chloro-1-(2-thienyl)-1-butanone | 50 mmol, 9.37 g | ClCCCC(=O)C=1SC=CC1 | C8H9ClOS
reactant | Sodium borohydride | 50 mmol, 1.88 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | α-(3-Chloropropyl)-2-thiophenemethanol | 7.58 g, 79% | ClCCCC(O)C=1SC=CC1 | C8H11ClOS
